US08975261B2
(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)boronic acid (PP1)
A mixture of 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine (LL2) (800 mg, 2.1 mmol), bis(pinacolato)diboron (789 mg, 3.1 mmol), potassium acetate (813 mg, 8.3 mmol) and PdCl2(dppf) (303 mg, 0.41 mmol) in dioxane (10.4 mL) under N2 was heated at 100° C. for 14 hours. The reaction mixture was cooled to ambient temperature, partitioned between EtOAc (125 mL) and sat. sodium bicarbonate (25 mL), washed with water (25 mL), dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (20% to 100% EtOAc in hexanes; hydrolysis on silica gel to boronic acid led to elution with 9:1 chloroform/methanol) to afford the title compound as a brown foam. LRMS m/z (M+H) 352.1 found, 352.1 required.

reactant | 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine | 2.1 mmol, 800 mg | BrC=1C(=NC2=CC=CN=C2C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C18H16BrN3O2
reactant | bis(pinacolato)diboron | 3.1 mmol, 789 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.3 mmol, 813 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10.4 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.41 mmol, 303 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)boronic acid | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1B(O)O | C18H18BN3O4
